US05252601
N-[[1,2,3,4-Tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester
Dissolve 2-carboxy-2-[(acetylthio)methyl]-1,2,3,4-tetrahydronaphthalene (2.88 g, 10.0 mmol) in dry dimethylformamide (20 mL). To this solution add N-methyl morpholine (1.01 g, 10.0 mmol), isoserine benzyl ester tosylate salt (3.67 g, 10.0 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.92 g, 10.0 mmol). Stir the reaction mixture for 18 hours under an atmosphere of argon at ambient temperature then partition between ethyl acetate and dilute HCl. Wash the organic solution with water, saturated sodium hydrogen carbonate then brine. Dry the solution (MgSO4) and concentrate in vacuo. Purify the residue by column chromatography (ethyl acetate:hexane) to give the title compound.

reactant | 2-carboxy-2-[(acetylthio)methyl]-1,2,3,4-tetrahydronaphthalene | 10.0 mmol, 2.88 g | C(=O)(O)C1(CC2=CC=CC=C2CC1)CSC(C)=O | C14H16O3S
reactant | N-methyl morpholine | 10.0 mmol, 1.01 g | CN1CCOCC1 | C5H11NO
reactant | isoserine benzyl ester tosylate salt | 10.0 mmol, 3.67 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(C1=CC=CC=C1)OC(C(CN)O)=O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 10.0 mmol, 1.92 g | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | N-[[1,2,3,4-Tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester | C(C)(=O)SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)OCC1=CC=CC=C1 | C24H27NO5S
